US09227955B2
Preparation of Methyl 6-{[2-(1-benzylpiperidin-4-ylamino)pyridine-3-carbonyl]amino}nicotinate
The title compound was prepared in the same manner as in Example 32, with the exception that methyl 6-aminonicotinate, instead of 4-(4-fluorobenzyl)morpholin-2-ylmethylamine, was used in the same molar amount (Total yield: 28.6%). 1H NMR (CDCl3) δ 8.92 (s, 1H), 8.63 (s, 1H), 8.35 (s, 1H), 8.29 (d, 1H), 8.18 (d, 1H), 7.78 (d, 1H), 7.35 (m, 5H), 6.53 (m, 1H), 4.13 (m, 1H), 3.97 (s, 3H), 3.56 (s, 2H), 2.86 (d, 2H), 2.28 (t, 2H), 2.09 (d, 2H), 1.65 (m, 2H) ppm.

reactant | methyl 6-aminonicotinate | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | 4-(4-fluorobenzyl)morpholin-2-ylmethylamine | FC1=CC=C(CN2CC(OCC2)CN)C=C1 | C12H17FN2O
product | Methyl 6-{[2-(1-benzylpiperidin-4-ylamino)pyridine-3-carbonyl]amino}nicotinate | yield: 28.6% | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NC=CC=C1C(=O)NC1=NC=C(C(=O)OC)C=C1 | C25H27N5O3
